US07138425B2
a) N-(5-Phenyl-2-hydroxyphenyl)-3-nitro-4-chlorobenzamide
Prepared by the method of Example 15b), from 3-nitro-4-chlorobenzoyl chloride (5.28 g, 24.0 mmol) and 4-phenyl-2-aminophenol (3.92 g, 21.0 mmol) the subtitle compound was obtained. The product was used directly in the next step without purification.

reactant | 3-nitro-4-chlorobenzoyl chloride | 24.0 mmol, 5.28 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1Cl | C7H3Cl2NO3
reactant | 4-phenyl-2-aminophenol | 21.0 mmol, 3.92 g | C1(=CC=CC=C1)C1=CC(=C(C=C1)O)N | C12H11NO
product | N-(5-Phenyl-2-hydroxyphenyl)-3-nitro-4-chlorobenzamide | C1(=CC=CC=C1)C=1C=CC(=C(C1)NC(C1=CC(=C(C=C1)Cl)[N+](=O)[O-])=O)O | C19H13ClN2O4
